US09399623B2
Step 2: 6-Chloro-2-(3-oxo-cyclopentyl)-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexyl methyl)-amide
The title compound was synthesized according to the procedure described in example 126 using 6-chloro-2-(3-oxo-cyclopent-1-enyl)-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexylmethyl)-amide, palladium on carbon and triethylsilane. m/z: 421 [M+H]+

reactant | 6-chloro-2-(3-oxo-cyclopent-1-enyl)-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexylmethyl)-amide | FC1(CCC(CC1)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)C1=CC(CC1)=O)F | C22H21ClF2N2O2
reactant | triethylsilane | C(C)[SiH](CC)CC | C6H16Si
catalyst | palladium on carbon | [Pd] | Pd
product | 6-Chloro-2-(3-oxo-cyclopentyl)-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexyl methyl)-amide | FC1(CCC(CC1)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)C1CC(CC1)=O)F | C22H23ClF2N2O2
